US07323475B2
d) [(4-Ethoxy-1-methyl-7-phenoxy-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(4-ethoxy-1-methyl-7-phenoxy-isoquinoline-3-carbonyl)-amino]-acetic acid tert-butyl ester (14 mg, 0.032 mmol) and trifluoroacetic acid (2 ml) was stirred at ambient temperature for 3 h. Then the mixture was concentrated in vacuo and the residue dissolved in EtOH (5 ml). The mixture was evaporated in vacuo to give the title compound as a yellowish solid (12 mg); MS-(−)-ion: M−1=381.1.

reactant | [(4-ethoxy-1-methyl-7-phenoxy-isoquinoline-3-carbonyl)-amino]-acetic acid tert-butyl ester | 0.032 mmol, 14 mg | C(C)(C)(C)OC(CNC(=O)C=1N=C(C2=CC(=CC=C2C1OCC)OC1=CC=CC=C1)C)=O | C25H28N2O5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [(4-Ethoxy-1-methyl-7-phenoxy-isoquinoline-3-carbonyl)-amino]-acetic acid | 12 mg | C(C)OC1=C(N=C(C2=CC(=CC=C12)OC1=CC=CC=C1)C)C(=O)NCC(=O)O | C21H20N2O5
